US07101905B2
To a solution of 3-chlorobenzaldehyde (100 mmol) in chloroform (250 mL) is added 1,3-propanedithiol (110 mmol). The mixture is chilled to −10° C. and HCl gas is gently bubbled through the mixture for 20 minutes. The mixture is stirred at −10° C. for one hour, then allowed to warm to room temperature overnight. The solution is washed with 1 M KOH, water, brine, and dried (K2CO3). After filtering, the organic extract is concentrated in vacuo to afford 2-(3-chlorophenyl)-1,3-dithiane.

reactant | 3-chlorobenzaldehyde | 100 mmol | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,3-propanedithiol | 110 mmol | C(CCS)S | C3H8S2
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-chlorophenyl)-1,3-dithiane | ClC=1C=C(C=CC1)C1SCCCS1 | C10H11ClS2
